US06225323B1
(N,N-Dimethylaminoethyl)-2-Iodo-5-Nitro-Benzamide (1)
2-iodo-5-nitro-benzoic acid (3 mmoles) was dissolved in a solution of dry dichloromethane-DMF mixture (v/v 4:1, 5 ml). To the ice-cold solution, was added 6 mmoles of thionyl chloride. The reaction mixture was stirred at room temperature for two hours. The solvent was then evaporated using a rotory evaporator. The residue was dried under vacuum at 50° C. for 30 minutes. The residue was dissolved in dry dichlormethane (5 ml) without any purification. The solution was then cooled to 0° C. To this solution, triethylamine (1 ml) and a solution of N,N-dimethylethylenediamine (3 mmole) in dichloromethane was added. The reaction mixture was stirred at room temperature for 16 hours. After completion of the reaction, the reaction mixture was poured into water and basified to pH 12 using 2M NaOH. The organic layer was separated and washed with water, dried over anhydrous magnesium sulfate and concentrated. The (N,N-dimethylaminoethyl)-2-iodo-5-nitro-benzamide compound was separated by silica gel chromatography. The yield was 70%. The melting point was 126-128° C.

reactant | 2-iodo-5-nitro-benzoic acid | 3 mmoles | IC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4INO4
reactant | thionyl chloride | 6 mmoles | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-dimethylethylenediamine | 3 mmole | CN(CCN)C | C4H12N2
reactant | NaOH | 2M | [OH-].[Na+]
reactant | dichloromethane DMF | 5 ml | ClCCl.CN(C)C=O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
product | (N,N-Dimethylaminoethyl)-2-Iodo-5-Nitro-Benzamide | yield was 70% | CN(C)CCC=1C(=C(C(=O)N)C=C(C1)[N+](=O)[O-])I | C11H14IN3O3
